US08012966B2
A stirred solution of 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (74 mg, 0.237 mmol), 5-fluoro-1,3-dihydro-indol-2-one (40 mg, 0.267 mmol, commercially available from Aldrich) in 0.66 ml of ethanol was added dropwise with anhydrous piperidine (0.1 ml). The mixture was stirred at room temperature overnight. The resulting solid was filtered under reduced pressure, washed with anhydrous ethanol (1 ml×3), purified by silica gel column chromatography with triethylamine:methanol:dichloromethane (1:20:500) as eluents to give 5-(2-diethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (60 mg, 54.8%) as a yellow solid

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 0.237 mmol, 74 mg | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | 5-fluoro-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 0.66 ml | C(C)O | C2H6O
product | 5-(2-diethylamino-ethyl)-2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 60 mg, 54.8% | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=C2C(NC1=CC=C(C=C21)F)=O)=O)CC | C23H27FN4O2
